US04014887
A mixture of 3.14 parts of 2,2,6,6-tetramethylpiperidin-4-ol, 10 parts of propylene oxide and 10 parts of isopropanol was charged to an autoclave. A pressure of 100 atmospheres of nitrogen was applied and the mixture heated at 160°C for 6 hours. The isopropanol solvent and unreacted propylene oxide were removed by distillation under reduced pressure. Crystallisation of the residue from cyclohexane gave 3.0 parts of 1[2-hydroxypropyl]-2,2,6,6-tetramethylpiperidin-4-ol having a melting point of 97°-8°C and on further purification of 107°-8°C and the following elemental analysis by weight:

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1[2-hydroxypropyl]-2,2,6,6-tetramethylpiperidin-4-ol | OC(CN1C(CC(CC1(C)C)O)(C)C)C | C12H25NO2
